US06395905B1
Step1: 2-(4-Aminophenyl)N,N-dimethylacetamide
A suspension of 4-aminophenylacetic acid (5 g, 30 mmol), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (6.9 g, 36 mmol), and dimethylamine (6.5 mol of a 5.6M solution in EtOH 36 mmol) in 1,2, DCE was stirred at room temperature for 4 h. Silica was added, the suspension evaporated and residue loaded onto silica plug column, eluting with DCM:MeOH/98:2). The title compound (2.6 g, 45%) was isolated as an orange solid. 1H MNR (400 MHz, CDCl3) δ2.94 (3H, s), δ2.98 (3H, s), 3.60 (2H, s), 6.64 (2H, d, J=8.3 Hz), 7.03 (2H, d, 8.2 Hz). MS (CI)+179 (M+H)+.

reactant | 4-aminophenylacetic acid | 30 mmol, 5 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 36 mmol, 6.9 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylamine | CNC | C2H7N
reactant | EtOH | 36 mmol | CCO | C2H6O
solvent | DCE | ClCCCl | C2H4Cl2
product | 2-(4-Aminophenyl)N,N-dimethylacetamide | 2.6 g, 45% | NC1=CC=C(C=C1)CC(=O)N(C)C | C10H14N2O
